US08372864B2
360 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-pentyl-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are stirred under an inert atmosphere in 6 cm3 of ethyl ether at a temperature close to 5° C. 1.9 cm3 of a 2M solution of hydrochloric acid in ether are added. The solution is concentrated under reduced pressure (5 kPa). Ethyl ether is added. The suspension is stirred then, after stopping the stirring, the supernatant is removed. Ethyl ether is again added. This operation is carried out several times. The last suspension is then concentrated under reduced pressure (5 kPa). 363 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-pentyl-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white solid.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-pentyl-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 360 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCCCC)C=C(C1)F | C35H38F5N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 6 cm3 | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-1-oxo-2-pentyl-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 363 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCCCC)C=C(C1)F | InChI=1S/C35H38F5N3O3.ClH/c1-2-3-4-14-43-15-11-27-28(9-6-10-29(27)33(43)46)32(45)42-30(18-22-16-25(36)20-26(37)17-22)31(44)21-41-34(12-13-34)23-7-5-8-24(19-23)35(38,39)40;/h5-10,16-17,19-20,30-31,41,44H,2-4,11-15,18,21H2,1H3,(H,42,45);1H/t30-,31+;/m0./s1
